* 74245 model
 
.subckt 74245 dir A1 A2 A3 A4 A5 A6 A7 A8 GND B8 B7 B6 B5 B4 B3 B2 B1 nOE VCC

*necessary for proper output calculations
Ro01 A1 GND 1G
Ro02 A2 GND 1G
Ro03 A3 GND 1G
Ro04 A4 GND 1G
Ro05 A5 GND 1G
Ro06 A6 GND 1G
Ro07 A7 GND 1G
Ro08 A8 GND 1G
Ro11 B1 GND 1G
Ro12 B2 GND 1G
Ro13 B3 GND 1G
Ro14 B4 GND 1G
Ro15 B5 GND 1G
Ro16 B6 GND 1G
Ro17 B7 GND 1G
Ro18 B8 GND 1G

*decode logic
a01 [ dir ~nOE] lab and
a02 [~dir ~nOE] lba and

*buffers
a11 A1 lab B1 tri
a12 A2 lab B2 tri
a13 A3 lab B3 tri
a14 A4 lab B4 tri
a15 A5 lab B5 tri
a16 A6 lab B6 tri
a17 A7 lab B7 tri
a18 A8 lab B8 tri

a21 B1 lba A1 tri
a22 B2 lba A2 tri
a23 B3 lba A3 tri
a24 B4 lba A4 tri
a25 B5 lba A5 tri
a26 B6 lba A6 tri
a27 B7 lba A7 tri
a28 B8 lba A8 tri

.model and  d_and       (rise_delay=1.0e-6 fall_delay=2.0e-6
+                        input_load=1.0e-12)

.model tri  d_tristate  (rise_delay=1.0e-6 fall_delay=2.0e-6
+                        input_load=1.0e-12)

.ends
